US04822787
To a suspension of sodium borohydride (0.30 g) in tetrahydrofuran (15 ml) was added boron trifluoride etherate (3.5 ml) in a nitrogen stream with stirring at 0°-5° C. The mixture was stirred at the same condition for 30 minutes. To the mixture was added a solution of (2S, 4R)-2-(carbamoylmethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.60 g) in tetrahydrofuran (3 ml) at 0°-5° C. The mixture was stirred at 0°-5° C. for 1 hour and at ambient temperature overnight. Methanol (10 ml) was added to the reaction mixture at 0°-10° C. After 2 hours, insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give a residue. A solution of the residue in a mixture of concentrated hydrochloric acid (3 ml) and methanol (30 ml) was stirred at ambient temperature for 20 hours. The mixture was concentrated under reduced pressure to give (2S, 4R)-2-[(2-aminoethyl)oxymethyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine. To a solution of the compound above in a mixture of water (10 ml) and tetrahydrofuran (20 ml) was added a solution of potassium cyanate (1.50 g) in water (5 ml) at 40°-45° C., keeping the pH between 4-5 with concentrated hydrochloric acid. The reaction mixture was extracted with ethyl acetate (50 ml×2). The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (1:99 V/V) to give (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (1.38 g).

reactant | sodium borohydride | 0.30 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 3.5 ml | B(F)(F)F.CCOCC
reactant | (2S, 4R)-2-(carbamoylmethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.60 g | C(N)(=O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O9S
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | Methanol | 10 ml | CO | CH4O
product | (2S, 4R)-2-[(2-aminoethyl)oxymethyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | NCCOC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O8S
